US05478858
To a solution of 1-tert-butoxycarbonyl-4-methyl-5-nitrobenzimidazole (8 g) in methanol (40 mL)/ethyl acetate (400 mL) is added palladium-on-carbon (Pd/C) (10%, 0.5 g) and ammonium formate (7.27g). The mixture is stirred at 50° C. for 2 hours, then filtered on Celite, with methanol wash of the solids. The filtrate is rotary evaporated and the residue partitioned between water and ethyl acetate. The organic layer is washed with saturated ammonium chloride, dried over magnesium sulfate, filtered and rotary evaporated to afford pure 5-amino-1-1-butoxycarbonyl-4-methylbenzimidazole as an off-white solid.

reactant | 1-tert-butoxycarbonyl-4-methyl-5-nitrobenzimidazole | 8 g | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC(=C2C)[N+](=O)[O-] | C13H15N3O4
reactant | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
reactant | ammonium formate | 7.27g | C(=O)[O-].[NH4+]
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | 5-amino-1-1-butoxycarbonyl-4-methylbenzimidazole | NC1=C(C2=C(N(C=N2)C(=O)OCCCC)C=C1)C | C13H17N3O2
